US07622469B2
2,4-Diamino-1,6-dihydro-6-decyl-1-(2′,4′-difluorophenyl)-1,3,5-triazine hydrochloride
100 ml of ethanol, 5.1 g (29.9 mmol) of 1-undecanal and 0.8 ml of concentrated hydrochloric acid were added to 5.0 g (20.0 mmol) of N1- (2,4-difluorophenyl)-biguanide hydrochloride, and the mixture was refluxed for 8 hours. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (elution with a mixture of chloroform and methanol mixed solution (9:1.5)), and recrystallized from 80% aqueous ethanol to obtain 1.7 g of colorless crystals having a melting point of 207 to 209° C.

reactant | 1-undecanal | 29.9 mmol, 5.1 g | C(CCCCCCCCCC)=O | C11H22O
reactant | hydrochloric acid | 0.8 ml | Cl | ClH
reactant | N1- (2,4-difluorophenyl)-biguanide hydrochloride | 20.0 mmol, 5.0 g | Cl.FC1=C(C=CC(=C1)F)NC(=N)NC(=N)N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2,4-Diamino-1,6-dihydro-6-decyl-1-(2′,4′-difluorophenyl)-1,3,5-triazine hydrochloride | 1.7 g | Cl.NC=1N(C(N=C(N1)N)CCCCCCCCCC)C1=C(C=C(C=C1)F)F | InChI=1S/C19H29F2N5.ClH/c1-2-3-4-5-6-7-8-9-10-17-24-18(22)25-19(23)26(17)16-12-11-14(20)13-15(16)21;/h11-13,17H,2-10H2,1H3,(H4,22,23,24,25);1H
